US09212192B2
(3-methoxy-4-nitrophenyl)(4-methylpiperazin-1-yl)methanone
A solution of 3-methoxy-4-nitrobenzoic acid (6.81 g, 34.54 mmol) in sulfurous dichloride (50 mL) was stirred at reflux for 8 hours. After cooling to ambient temperature, the mixture was concentrated under vacuum and the residue was dissolved in dichloromethane (60 mL). 1-Methylpiperazine (3.6 g, 36.27 mmol) was added at 0° C. and the mixture was stirred at ambient temperature for 4 hours. The mixture was poured into water (100 mL) and extracted with dichloromethane (2×200 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated to provide the crude title compound. MS: 280.2 (M+H+).

reactant | 3-methoxy-4-nitrobenzoic acid | 34.54 mmol, 6.81 g | COC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO5
reactant | 1-Methylpiperazine | 36.27 mmol, 3.6 g | CN1CCNCC1 | C5H12N2
reactant | water | 100 mL | O | H2O
solvent | sulfurous dichloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
product | (3-methoxy-4-nitrophenyl)(4-methylpiperazin-1-yl)methanone | COC=1C=C(C=CC1[N+](=O)[O-])C(=O)N1CCN(CC1)C | C13H17N3O4
